US05284847
7-Bromothieno(2,3-b)pyrazine-2,3(1H,4H)-dione
6,7-Dibromothieno[2,3-b]pyrazine-2,3(1H,4H)-dione hydrate (0.50 g, 1.45 mmol) was dissolved in 113 ml 97% acetic acid at 100° C. and 0.11 g (1.68 mmol) of zinc dust was added in one portion. After stirring 24 h another 0.11 g (1.68 mmol) of zinc dust was added and the stirring was continued at 100° C. for 24 h. The reaction mixture was filtrated and evaporated to dryness under reduced pressure and 10 ml of water was added. The precipitate was filtered off and washed with water and dried. The crude material (0.215 g) was recrystallized from acetic acid to afford 0.104 g (29%) of the title compound. M.p. 295°-296° C. 1H-NMR (DMSO-D6, δ): 7.3 (s, 1H), 11.9 (s, 1H), 12.35 (s, 1H).

reactant | 6,7-Dibromothieno[2,3-b]pyrazine-2,3(1H,4H)-dione hydrate | 1.45 mmol, 0.50 g | O.BrC1=C(C2=C(NC(C(N2)=O)=O)S1)Br
solvent | acetic acid | 113 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.68 mmol, 0.11 g | [Zn] | Zn
catalyst | zinc | 1.68 mmol, 0.11 g | [Zn] | Zn
product | 7-Bromothieno(2,3-b)pyrazine-2,3(1H,4H)-dione | 0.104 g, 29% | BrC1=CSC=2NC(C(NC21)=O)=O | C6H3BrN2O2S
